US07300946B2
Step B Synthesis of 4-pyridyl 4-(trifluoromethoxy)phenyl ketone hydrochloride as an intermediate
A solution of 20.0 grams (0.075 mole) of 4-pyridyl 4-(trifluoromethoxy)phenyl ketone in 350 mL of ethanol was stirred as hydrogen chloride gas was bubbled through during a five minute period. Upon completion of addition, the reaction mixture was stirred for one hour, and then it was filtered to collect a solid. The solid was washed with three portions of diethyl ether, and dried in a vacuum oven, yielding about 22.0 grams of the subject compound. The NMR spectrum was consistent with the proposed structure.

reactant | 4-pyridyl 4-(trifluoromethoxy)phenyl ketone | 0.075 mole, 20.0 grams | FC(OC1=CC=C(C=C1)C(=O)C1=CC=NC=C1)(F)F | C13H8F3NO2
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 350 mL | C(C)O | C2H6O
product | 4-pyridyl 4-(trifluoromethoxy)phenyl ketone hydrochloride | about 22.0 grams | Cl.FC(OC1=CC=C(C=C1)C(=O)C1=CC=NC=C1)(F)F | InChI=1S/C13H8F3NO2.ClH/c14-13(15,16)19-11-3-1-9(2-4-11)12(18)10-5-7-17-8-6-10;/h1-8H;1H
